US07989444B2
Preparation 26: 1,1-dimethylethyl 7-hydroxy-8-[(methylsulfonyl)amino]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate
Pyridine (0.17 ml), methanesulfonyl chloride (0.16 ml) and dimethylaminopyridine (catalytic quantity) were added at 0° C. to a solution in DCM (10 ml) of 1,1-dimethylethyl 7-amino-8-hydroxy-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (0.5 g). The solution was stirred at room temperature overnight. Volatiles were evaporated under reduced pressure and the residue was partitioned between aqueous NaHCO3 and DCM. The organic layer was concentrated and submitted to column chromatography to provide the title compound (0.53 g) as a yellow oil. MS (m/z): 357 [MH]+.

reactant | Pyridine | 0.17 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.16 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 1,1-dimethylethyl 7-amino-8-hydroxy-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 0.5 g | NC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1O | C15H22N2O3
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl 7-hydroxy-8-[(methylsulfonyl)amino]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 0.53 g | OC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1NS(=O)(=O)C | C16H24N2O5S
